US04935413
Into a three-necked flask purged with nitrogen gas, p-hydroxybenzophenone (1.98 g; 10 mmol) was charged, and chloroform (10 ml) was added thereto. To the resultant solution, a solution of methacryloyl isocyanate (1.11 g; 10 mmol) in 1,2-dichloroethane (5 ml) was dropwise added in 5 minutes under nitrogen stream while stirring. Chloroform and 1,2-dichloroethane were removed by evaporation under reduced pressure to give p-benzoylphenyl N-methacryloylcarbamate (3.1 g), which was recrysallized from a mixture of benzene and chloroform to give white granules. M.P., 96°-97° C.

reactant | p-hydroxybenzophenone | 10 mmol, 1.98 g | OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H10O2
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methacryloyl isocyanate | 10 mmol, 1.11 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | p-benzoylphenyl N-methacryloylcarbamate | 3.1 g | C(C(=C)C)(=O)NC(OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H15NO4
